US06194409B1
86d. 4-Amino-2-(aminomethyl)furo[3,2-c]pyridine
This compound was prepared from 4-amino-furo[3,2-c]pyridine-2-carbonitrile (5.7 g), using the procedure described for 1-amino-7-(aminomethyl)isoquinoline. Yield: 3.5 g (60%); yellow crystals; m.p. 142-144° C.; EI-MS: 163 (M+).

reactant | 4-amino-furo[3,2-c]pyridine-2-carbonitrile | 5.7 g | NC1=NC=CC2=C1C=C(O2)C#N | C8H5N3O
reactant | 1-amino-7-(aminomethyl)isoquinoline | NC1=NC=CC2=CC=C(C=C12)CN | C10H11N3
product | 4-Amino-2-(aminomethyl)furo[3,2-c]pyridine | NC1=NC=CC2=C1C=C(O2)CN | C8H9N3O
